US07947683B2
methyl 5-hexenimidoate hydrochloride
Through a stirred solution of 5-hexenenitrile (3 g, 31Mmol) and MeOH (35 mmol) in Et2O (30 ml), at 0° C., HCl gas was bubbled for 10 minutes. Solvent was evaporated in vacuo and the residue treated with Et2O to give 5.1 g of the title compound as white solid, which was used without further purification.

reactant | 5-hexenenitrile | 31Mmol, 3 g | C(CCCC=C)#N | C6H9N
reactant | MeOH | 35 mmol | CO | CH4O
reactant | HCl | Cl | ClH
solvent | Et2O | 30 ml | CCOCC | C4H10O
product | methyl 5-hexenimidoate hydrochloride | 5.1 g | Cl.C(CCCC=C)(OC)=N | InChI=1S/C7H13NO.ClH/c1-3-4-5-6-7(8)9-2;/h3,8H,1,4-6H2,2H3;1H
